US06617330B2
5-Chloro-3-cyano-2-(1,1-dipropoxymethylenamino)thiophene)
In a sulfonation flask, 3.02 g (0.012 mol) 3-cyano-2-(1,1-dipropoxymethylenamino)thiophene, are added, with stirring to 15 ml of absolute pyridine. The internal temperature is then raised to 60° C. and 1.9 g (0.0144 mol) N-chlorosuccinimide are added in three portions. After stirring for 3 hours at 60° C., the pyridine is removed in a water jet vacuum and the residue taken up in ethylacetate. The organic phase is washed twice with water and after drying, the solvent is removed in a water jet vacuum. The crude product is purified by column chromatography over silica gel (eluant: tert.butylmethylether/hexane 1:6). Yield: 3.5 g of 5-chloro-3-cyano-2-(1,1-dipropoxymethyleneamino)thiophene in the form of brownish crystals, m.p. 55-57° C.

reactant | 3-cyano-2-(1,1-dipropoxymethylenamino)thiophene | 0.012 mol, 3.02 g | C(#N)C1=C(SC=C1)N=C(OCCC)OCCC | C12H16N2O2S
reactant | N-chlorosuccinimide | 0.0144 mol, 1.9 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 5-Chloro-3-cyano-2-(1,1-dipropoxymethylenamino)thiophene | ClC1=CC(=C(S1)N=C(OCCC)OCCC)C#N | C12H15ClN2O2S
